US06777421B2
To a mixture of 2-bromothiazole (826 mg, 4.99 mmol) and tetrakis(triphenylphosphine) palladium (0) (175 mg, 0.151 mmol) in 1,2-dimethoxyethane (20 mL) was added 2-formylbenzeneboronic acid (0.9017 g, 6.01 mmol) and 1N aqueous NaHCO3 (8 mL). The resultant mixture was heated at reflux for 6 hrs. The reaction mixture was diluted with water and extracted with EtOAc (2×50 mL). The organic solution was dried over Na2SO4, filtered and concentrated. The crude product was purified by gradient flash chromatography (10% to 25% EtOAc in hexane) to yield 2-(2-thiazolyl)benzaldehyde as a white solid.

reactant | 2-bromothiazole | 4.99 mmol, 826 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | 2-formylbenzeneboronic acid | 6.01 mmol, 0.9017 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | NaHCO3 | 1N, 8 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.151 mmol, 175 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(2-thiazolyl)benzaldehyde | S1C(=NC=C1)C1=C(C=O)C=CC=C1 | C10H7NOS
